US05506194
3.0 Grams (11 mmol) of 5,8-dimethyl-6-bromothiochroman-4-one and 2.2 g (22 mmol.) of O-ethylhydroxylamine hydrochloride were refluxed under heat in a mixed solvent containing 10 ml of ethanol and 10 ml of pyridine For 30 minutes. The solvents were distilled off under reduced pressure, and then the residue was treated with 5% hydrochloric acid and extracted with ethyl acetate. The so-obtained solution was consecutively washed with 5% aqueous potassium carbonate and with saturated sodium chloride solution and dried over sodium sulfate. The solvent was distilled off to give 3.2 g of 4-ethoxyimino-5,8-dimethyl-6-bromothiochroman (yield 92%).

reactant | 5,8-dimethyl-6-bromothiochroman-4-one | 11 mmol | CC1=C2C(CCSC2=C(C=C1Br)C)=O | C11H11BrOS
reactant | O-ethylhydroxylamine hydrochloride | 22 mmol, 2.2 g | Cl.C(C)ON
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-ethoxyimino-5,8-dimethyl-6-bromothiochroman | 3.2 g, yield 92% | C(C)ON=C1CCSC2=C(C=C(C(=C12)C)Br)C | C13H16BrNOS
